US04634768
Synthesis of methyl 5-chlorosalicylate
A 85.2 g quantity of chlorine gas was absorbed in a mixture of 152 g (1.0 mole) of methyl salicylate and 500 ml of chloroform at less than 20° C. over a period of 6 hours while the mixture was stirred. The resulting reaction mixture was washed with water and the chloroform was removed. The residue was subjected to fractional distillation at reduced pressure to provide 152 g (81.5%) of a fraction at 117° to 120° C. and 8 mmHg., M.P. 51° C.

reactant | chlorine | ClCl | Cl2
reactant | methyl salicylate | 1.0 mole, 152 g | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 5-chlorosalicylate | ClC1=CC=C(C(C(=O)OC)=C1)O | C8H7ClO3
